US08222416B2
To a 25 mL round bottomed flask charged with 1-benzenesulfonyl-2-(2-cyclopentyl-1-hydroxy-ethyl)-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester (730 mg, 1.7 mmol) was added a solution of Dess-Martin periodinane in dichloromethane (0.3M, 12 mL, 3.6 mmol) at 25° C. The reaction mixture was stirred at 25° C. for 1 h and then quenched with a saturated aqueous sodium bicarbonate solution (10 mL). The mixture was extracted with ethyl acetate (100 mL), washed with a saturated aqueous sodium bicarbonate solution (3×20 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo to give 1-benzenesulfonyl-2-(2-cyclopentyl-acetyl)-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester (670 mg, 93%) as a light yellow solid which was used without further purification: 1H NMR (400 MHz, CDCl3) δ ppm 1.26 (m, 2H), 1.52-1.74 (m, 4H), 1.97 (m, 2H), 2.45 (m, 1H), 3.04 (d, J=7.2 Hz, 2H), 3.98 (s, 3H), 6.99 (s, 1H), 7.57 (m, 2H), 7.65 (m, 1H), 8.43 (m, 2H), 8.55 (d, J=2.0 Hz, 1H), 9.21 (d, J=2.0 Hz, 1H).

reactant | 1-benzenesulfonyl-2-(2-cyclopentyl-1-hydroxy-ethyl)-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 1.7 mmol, 730 mg | COC(=O)C=1C=C2C(=NC1)N(C(=C2)C(CC2CCCC2)O)S(=O)(=O)C2=CC=CC=C2 | C22H24N2O5S
reactant | Dess-Martin periodinane | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | dichloromethane | 3.6 mmol, 0.3M, 12 mL | ClCCl | CH2Cl2
product | 1-benzenesulfonyl-2-(2-cyclopentyl-acetyl)-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 670 mg, 93% | COC(=O)C=1C=C2C(=NC1)N(C(=C2)C(CC2CCCC2)=O)S(=O)(=O)C2=CC=CC=C2 | C22H22N2O5S
